US07402700B2
Preparation of N-phenyl-3,4-dimethylphenylamine
Into a 250 mL round bottom flask was placed palladium acetate (120 mg) and Cytop-216 (120 mg) and was stirred in toluene (20 mL) for 1 hour at room temperature under agron. To this was added, in order, 3,4-dimethylaniline (3.27 g), bromobenzene (6 mL), sodium t-butoxide (7.9 g) and a further (20 mL) of toluene. The resulting mixture was heated at 100-110° C. for between 4 and 6 hours. The mixture was cooled to room temperature and diluted with 20 mL of toluene, filtered to remove insolubles, and 10-20 g of Al2O3 was added. The resulting slurry was heated to −80° C. and filtered while hot. The toluene was removed by rotary evaporation and the residue was recrystallized from 150 mL of isopropyl alcohol. The solid produced on cooling was filtered by suction, washed with a further 100 mL of isopropyl alcohol, and dried overnight. Yield was 5.1 g with a purity >99% which was determined by HPLC and NMR.

reactant | 3,4-dimethylaniline | 3.27 g | CC=1C=C(N)C=CC1C | C8H11N
reactant | bromobenzene | 6 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium t-butoxide | 7.9 g | CC(C)([O-])C.[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 120 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-phenyl-3,4-dimethylphenylamine | C1(=CC=CC=C1)NC1=CC(=C(C=C1)C)C | C14H15N
